US05919824
tert-Butyl (±)-2-(3-nitrophenyl)propionate (S62)
2-(3-Nitrophenyl)propionic acid (18.2 g) and 4-dimethylaminopyridine (1.2 g) were dissolved in tertiary butanol (100 ml). To the solution was added a solution of di(tertiarybutyl) dicarbonate (30.5 g) in tertiarybutanol (100 ml) with stirring at room temperature. The resultant solution was stirred for 20 minutes at 35-40° C. The solvent was distilled off under reduced pressure and the residue was dissolved in ethyl acetate. The resulting solution was washed successively with 1N HCl, water, saturated aqueous sodium hydrogencarbonate solution and brine, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, obtaining 23.4 g of the title compound.

reactant | 2-(3-Nitrophenyl)propionic acid | 18.2 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)O)C | C9H9NO4
reactant | di(tertiarybutyl) dicarbonate | 30.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 1.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tertiary butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tertiarybutanol | 100 ml | C(C)(C)(C)O | C4H10O
product | tert-Butyl (±)-2-(3-nitrophenyl)propionate | 23.4 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OC(C)(C)C)C | C13H17NO4
